US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxybutyl)-3-quinolinecarboxamide
A mixture of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-butynyl)-3-quinolinecarboxamide from Example No. 152 (106.3 mg) and Pd/C (10%, 21.3 mg) is dissolved in 40 mL 3:1 CH2Cl2 :MeOH. The reaction mixture is placed under the Parr hydrogenator at 34 psi H2 and monitored by mass spectroscopy for complete reduction of the acetylene. The old palladium catalyst is replaced with fresh palladium catalyst each time the reaction is taken off the Parr. In this case, the reaction is taken off the Parr twice. The reaction is complete in 130 min . The reaction mixture is filtered over celite to remove the palladium. The filtrate is condensed to obtain a solid. The crude product is adsorbed onto silica and chromatographed eluting with 4% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to afford 30.0 mg (28%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-butynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CC(C)O)C=C1 | C21H17ClN2O3
reactant | MeOH | CO | CH4O
reactant | acetylene | C#C | C2H2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
catalyst | Pd/C | 21.3 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxybutyl)-3-quinolinecarboxamide | 30.0 mg, 28% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CCC(C)O)C=C1 | C21H21ClN2O3
